US04173478
Preparation of N-(benzotriazol-5-yl)-4-(4-dimethylaminophenylazo)benzamide (Dye 3)
A mixture of 5-aminobenzotriazole (0.47 g), 4-(N,N-dimethylamino)-phenylazobenzoyl chloride, hydrochloride (1.13 g) and N,N-dimethylaniline (0.84 g) in dry tetrahydrofuran was stirred overnight and the resulting precipitate was filtered off and recrystallized in a dimethylformamide/water mixture to give pure dye, 0.73 g, m.p. 246°, λmax (methanol)=435 nm.

reactant | 5-aminobenzotriazole | 0.47 g | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | 4-(N,N-dimethylamino)-phenylazobenzoyl chloride, hydrochloride | 1.13 g | Cl.CN(C)C1=CC(=C(C(=O)Cl)C=C1)N=NC1=CC=CC=C1
reactant | N,N-dimethylaniline | 0.84 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(benzotriazol-5-yl)-4-(4-dimethylaminophenylazo)benzamide | N1N=NC2=C1C=CC(=C2)NC(C2=CC=C(C=C2)N=NC2=CC=C(C=C2)N(C)C)=O | C21H19N7O
